US05817828
N-[1-(2-phenylethyl)-4-carboxy-5-bromopyrazol-3-yl]-N-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-n-propylamine
5 ml of ethanol, 5 ml of water and 226 mg of potassium hydroxide were added to 206 mg of N-[1-(2-phenylethyl)-4-ethoxycarbonyl-5-bromopyrazol-3-yl]-N-[(2'-(1H-tetrazol-5-yl)-biphenyl-4-yl)methyl]-n-propylamine, and heated under reflux for 5 hours. Ethanol was distilled off under reduced pressure, and 10 ml of water were added to the reaction mixture, which was then made acidic with concentrated hydrochloric acid. The resultant was extracted with 50 ml of dichloromethane. After dried over magnesium sulfate, the extract was concentrated under reduced pressure and dried to obtain 185 mg of the intended compound as a pale yellow, amorphous solid.

reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 226 mg | [OH-].[K+]
reactant | N-[1-(2-phenylethyl)-4-ethoxycarbonyl-5-bromopyrazol-3-yl]-N-[(2'-(1H-tetrazol-5-yl)-biphenyl-4-yl)methyl]-n-propylamine | 206 mg | C1(=CC=CC=C1)CCN1N=C(C(=C1Br)C(=O)OCC)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCC | C31H32BrN7O2
solvent | water | 5 ml | O | H2O
product | N-[1-(2-phenylethyl)-4-carboxy-5-bromopyrazol-3-yl]-N-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-n-propylamine | 185 mg | C1(=CC=CC=C1)CCN1N=C(C(=C1Br)C(=O)O)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCC | C29H28BrN7O2
